US08980911B2
To a solution of N-[3-(4-amino-2,6-dichlorobenzoyl)-1H-pyrrolo[2,3-c]pyridin-7-yl]cyclopropanecarboxamide (0.2 g, 0.5 mmol) in dichloromethane (10 mL), pyridine (0.081 g, 1 mmol) was added followed by addition of acetyl chloride (0.044 g, 0.56 mmol) at 0° C. After stirring at 0° C. for about 0.5 hour, the reaction was kept at room temperature for about 2 hours. Dichloromethane was evaporated; water (50 mL) was added to the reaction mixture, extracted with ethyl acetate (2×100 mL). The organic layer was dried over anhydrous sodium sulfate and concentrated under vacuum. The crude product was purified by silica gel (100-200 mesh) column chromatography. Elution with 2.5% methanol in dichloromethane afforded N-{3-[4-(acetylamino)-2,6-dichlorobenzoyl]-1H-pyrrolo[2,3-c]pyridin-7-yl}cyclopropanecarboxamide (0.06 g, 27%).

reactant | N-[3-(4-amino-2,6-dichlorobenzoyl)-1H-pyrrolo[2,3-c]pyridin-7-yl]cyclopropanecarboxamide | 0.5 mmol, 0.2 g | NC1=CC(=C(C(=O)C2=CNC3=C(N=CC=C32)NC(=O)C3CC3)C(=C1)Cl)Cl | C18H14Cl2N4O2
reactant | pyridine | 1 mmol, 0.081 g | N1=CC=CC=C1 | C5H5N
reactant | acetyl chloride | 0.56 mmol, 0.044 g | C(C)(=O)Cl | C2H3ClO
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | N-{3-[4-(acetylamino)-2,6-dichlorobenzoyl]-1H-pyrrolo[2,3-c]pyridin-7-yl}cyclopropanecarboxamide | 0.06 g, 27% | C(C)(=O)NC1=CC(=C(C(=O)C2=CNC3=C(N=CC=C32)NC(=O)C3CC3)C(=C1)Cl)Cl | C20H16Cl2N4O3
